* GT2N timing-table quantitative gate
.include /home/ZhangLexin/PALS/wmpc-gt2n-compat/results/gt2n_ngspice_compat_20260903/full_adapter_with4_20260903/model_card_osdi.sp
.include /home/ZhangLexin/PALS/wmpc-gt2n-compat/results/gt2n_ngspice_compat_20260903/full_adapter_with4_20260903/cells_osdi.cdl
VDD vdd 0 0.7
VSS vss 0 0
V_A A 0 PWL(0 0 2e-10 0 2.394e-10 0.7 5e-09 0.7)
CLOAD Y 0 3.168e-15
XU A Y vdd vss gt2_6t_inv_x1_w13_svt
.temp 25
.options method=gear maxord=2 reltol=1e-5 abstol=1e-15 vntol=1e-6
.control
pre_osdi /home/ZhangLexin/PALS/wmpc-gt2n-compat/results/gt2n_ngspice_compat_20260903/official_bsimcmg111_20260903/build/bsimcmg_v111_official.osdi
set noaskquit
tran 1e-13 5e-09
meas tran delay trig v(a) val=0.35 rise=1 targ v(y) val=0.35 fall=1
meas tran transition trig v(y) val=0.49 fall=1 targ v(y) val=0.21 fall=1
meas tran ymin min v(y) from=2e-10 to=5e-09
meas tran ymax max v(y) from=2e-10 to=5e-09
wrdata /home/ZhangLexin/PALS/wmpc/results/gt2n_timing_characterization_gate_20260904/jobs/input_rise_s3_c1/waveform.dat time v(a) v(y)
quit
.endc
.end
